US05889056
Preparation of S-Benzyl-2-fluorothioacetimidate hydrobromide
Fluorothioacetamide (3.39 g) and benzyl bromide (6.23 g) were refluxed in chloroform (40 ml), under nitrogen, for 16 h. After cooling, the mixture was diluted with ether (200 ml) and the resulting orange solid filtered off. The solid was washed with more ether and dried over P2O5 in vacuo to give 5.19 g of the desired product.

reactant | Fluorothioacetamide | 3.39 g | FCC(=S)N | C2H4FNS
reactant | benzyl bromide | 6.23 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ether | 200 ml | CCOCC | C4H10O
product | S-Benzyl-2-fluorothioacetimidate hydrobromide | 5.19 g | Br.C(C1=CC=CC=C1)SC(CF)=N | InChI=1S/C9H10FNS.BrH/c10-6-9(11)12-7-8-4-2-1-3-5-8;/h1-5,11H,6-7H2;1H
